US08193378B2
To a solution of 4-chloro-5,5,5-trifluoro-3-phenylpent-3-en-2-one (950 mg) and methylsulfanylacetate (446 mg) in MeCN (23.8 mL) was added dropwise DBU (0.63 mL) at 25° C., followed by stirring at the same temperature for 15 hours. To the reaction liquid was added a saturated aqueous NH4Cl solution (50 mL), followed by extraction with diethylether (50 mL) three times. The organic layer was washed with brine, dried over MgSO4, and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography (automatic purification device, hexane:EtOAc=98:2 to 90:0) to obtain methyl 3-methyl-4-phenyl-5-(trifluoromethyl)thiophene-2-carboxylate (1.08 g) as a colorless liquid.

reactant | 4-chloro-5,5,5-trifluoro-3-phenylpent-3-en-2-one | 950 mg | ClC(=C(C(C)=O)C1=CC=CC=C1)C(F)(F)F | C11H8ClF3O
reactant | methylsulfanylacetate | 446 mg | CSCC(=O)[O-]
reactant | DBU | 0.63 mL | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | NH4Cl | 50 mL | [NH4+].[Cl-]
solvent | MeCN | 23.8 mL | CC#N | C2H3N
product | methyl 3-methyl-4-phenyl-5-(trifluoromethyl)thiophene-2-carboxylate | 1.08 g | CC1=C(SC(=C1C1=CC=CC=C1)C(F)(F)F)C(=O)OC | C14H11F3O2S
